US03976643
To 55.4 g (0.315 mole) of N-methyl-2,6-dichloroaniline is added 0.4 mole of ethereal HCl and 200 ml of m-cresol. The mixture is then stirred and heated on a steam bath to drive off the ether and excess hydrogen chloride. To the resultant mixture is then added 13.3 g (0.315 mole) of cyanamide then heated for 2 hours on a steam bath. The reaction mixture is then cooled, added to 150 ml of conc. sodium hydroxide solution, cooled and extracted with 2 liters of ether. The ether layer is washed with 2 × 1 liter of water, dried over sodium sulfate, charcoaled and evaporated. The residue is triturated with hexane and the preciptate is filtered off and washed with ether and dried to obtain 1-(2,6-dichlorophenyl)-1-methylguanidine hydrochloride.

reactant | N-methyl-2,6-dichloroaniline | 0.315 mole, 55.4 g | CNC1=C(C=CC=C1Cl)Cl | C7H7Cl2N
reactant | HCl | 0.4 mole | Cl | ClH
reactant | m-cresol | 200 ml | C1=C(C=CC=C1O)C | C7H8O
reactant | cyanamide | 0.315 mole, 13.3 g | N#CN | CH2N2
reactant | sodium hydroxide | 150 ml | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 1-(2,6-dichlorophenyl)-1-methylguanidine hydrochloride | Cl.ClC1=C(C(=CC=C1)Cl)N(C(=N)N)C | InChI=1S/C8H9Cl2N3.ClH/c1-13(8(11)12)7-5(9)3-2-4-6(7)10;/h2-4H,1H3,(H3,11,12);1H
